US08283364B2
1,1-Dimethylethyl 4-({[(2,3-difluoro-6-iodo-4-methylphenyl)amino]-carbonyl}amino)-1-piperidinecarboxylate (D21)
A mixture of the crude 2,3-difluoro-6-iodo-4-methylphenyl isocyanate from D20, 4-amino-1-N-Boc piperidine (480 mg), and dichloromethane (5 ml) was stirred at room temperature for 18 h then evaporated and directly purified by chromatography on silica gel 20 g eluting with 10-50% ethyl acetate in hexane to give the title compound, 300 mg. M−−H=494.

reactant | 2,3-difluoro-6-iodo-4-methylphenyl isocyanate | FC1=C(C(=CC(=C1F)C)I)N=C=O | C8H4F2INO
reactant | 4-amino-1-N-Boc piperidine | 480 mg | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1,1-Dimethylethyl 4-({[(2,3-difluoro-6-iodo-4-methylphenyl)amino]-carbonyl}amino)-1-piperidinecarboxylate | FC1=C(C(=CC(=C1F)C)I)NC(=O)NC1CCN(CC1)C(=O)OC(C)(C)C | C18H24F2IN3O3
